US07214677B2
2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(4-methyl-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide
To a stirred solution of 2-chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide (70 mg, 0.173 mmol) in dioxane (1.5 ml) was added methanol (0.36 ml) followed by a 2.0 M solution of (trimethylsilyl)diazomethane (0.35 ml). After stirring for 16 hours at ambient temperature the mixture was concentrated under reduced pressure to give 75 mg of a white amorphous solid. Purification by silica gel chromatography eluting with 2:1 hexaned/ethyl acetate provided 39 mg of the title compound as a white amorphous solid. Melting Point 157–161° C.;

reactant | 2-chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide | 0.173 mmol, 70 mg | ClC1=C(C(=O)NCCC2=C(C=CC=C2)Cl)C=C(C=C1)N1N=CC(NC1=O)=O | C18H14Cl2N4O3
reactant | methanol | 0.36 ml | CO | CH4O
reactant | (trimethylsilyl)diazomethane | 0.35 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(4-methyl-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-benzamide | 75 mg | ClC1=C(C(=O)NCCC2=C(C=CC=C2)Cl)C=C(C=C1)N1N=CC(N(C1=O)C)=O | C19H16Cl2N4O3
